US06380230B1
A) Ethyl 3,5-dimethyl-2-indolecarboxylate
23.57 g of p-toluidine are placed in a mixture of 120 ml of water and 50 ml of concentrated HCl, followed by dropwise addition, at 0° C., of 15.4 g of NaNO2 in 40 ml of water and the mixture is left stirring for 20 minutes at 0° C. A solution of 32 g of ethyl 2-ethyl-3-oxobutyrate in 150 ml of EtOH and 150 ml of 20% NaOH solution are added, at −10° C., to the p-toluenediazonium chloride solution thus formed. After stirring for 30 minutes at −5° C., the mixture is acidified to pH=4 by addition of dilute HCl and one litre of water. On trituration, a red solid forms, which is filtered off and then dried in an oven at 40° C. This solid is taken up in 200 ml of absolute EtOH and 20 ml of concentrated H2SO4 and the mixture is then refluxed for 45 minutes. The reaction medium is poured into an ice/water mixture and filtered, the precipitate is then taken up in EtOAc and this solution is washed with water and dried over MgSO4. The residue is chromatographed on silica, eluting with a DCM/heptane mixture: m.p.=118° C.

reactant | p-toluidine | 23.57 g | NC1=CC=C(C=C1)C | C7H9N
reactant | NaNO2 | 15.4 g | N(=O)[O-].[Na+]
reactant | ethyl 2-ethyl-3-oxobutyrate | 32 g | C(C)C(C(=O)OCC)C(C)=O | C8H14O3
reactant | p-toluenediazonium chloride | [Cl-].C1(=CC=C(C=C1)[N+]#N)C
solvent | water | 120 ml | O | H2O
solvent | HCl | 50 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | NaOH | 150 ml | [OH-].[Na+]
solvent | water | one litre | O | H2O
product | Ethyl 3,5-dimethyl-2-indolecarboxylate | CC1=C(NC2=CC=C(C=C12)C)C(=O)OCC | C13H15NO2
